US06025372
A solution of 1-cyanomethyl-4-butoxycarbonylpiperazine (12 g) in ethanol (100 mL) saturated with ammonia, was hydrogenated over Raney Ni (5 g) at 1000 psi and 80° C. for 8 hours. The resulting mixture was filtered and evaporated to give 1-(2-aminoethyl)-4-butoxycarbonylpiperazine as a solid (12 g).

reactant | 1-cyanomethyl-4-butoxycarbonylpiperazine | 12 g | C(#N)CN1CCN(CC1)C(=O)OCCCC | C11H19N3O2
reactant | ammonia | N | H3N
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Ni | 5 g | [Ni] | Ni
product | 1-(2-aminoethyl)-4-butoxycarbonylpiperazine | 12 g | NCCN1CCN(CC1)C(=O)OCCCC | C11H23N3O2
